data/oMe_Silver.jsonl
{"reaction_id": "NR-228_1-C_2-CC_3-Br_4-c1ccccc1_5-C(c1ccccc1)C","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(C)=C(CC)(Br)","c1ccccc1C(=O)OC(c1ccccc1)C"],"products_smiles": ["C(C)1OC1(CC)Br"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C)1OC1(CC)Br","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
{"reaction_id": "NR-141_1-C(F)(F)F_2-c1sccc1","name": "Meerwein-Ponndorf-Verley Reduction","level": "medium","reactants_smiles": ["C(=O)(C(F)(F)F)(c1sccc1)"],"products_smiles": ["C(O)(C(F)(F)F)(c1sccc1)"],"conditions": "Al(Oi-Pr)3, i-PrOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Al-](OC(C)C)(OC(C)C)OC(C)C)(C(F)(F)F)(c1sccc1)","rationale": "Aluminum acts as a strong Lewis acid, coordinating to the carbonyl oxygen and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic hydride transfer."},{"step": 2,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(O[Al](OC(C)C)OC(C)C)(C(F)(F)F)(c1sccc1)","rationale": "A six-membered cyclic transition state allows concerted hydride transfer from the α-carbon of isopropoxide to the activated carbonyl carbon, favored by chelation and minimal ring strain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(C(F)(F)F)(c1sccc1)","rationale": "Proton transfer from the coordinated alkoxide to the oxygen regenerates the aluminum isopropoxide catalyst and releases the neutral alcohol product."}],"description": "The carbonyl coordinates to aluminum isopropoxide, increasing electrophilicity. A six-membered cyclic transition state enables hydride transfer from isopropoxide to the carbonyl carbon, reducing it to an alcohol. Proton transfer regenerates the catalyst and releases the product."}
{"reaction_id": "NR-109_1-c1ccccc1","name": "Hofmann Rearrangement","level": "medium","reactants_smiles": ["C(c1ccccc1)(=O)N","[OH-]","BrBr"],"products_smiles": ["N(c1ccccc1)"],"conditions": "NaOH, Br2","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(=O)[NH-]","rationale": "Strong base deprotonates the amide nitrogen, increasing its nucleophilicity and enabling subsequent electrophilic bromination."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(c1ccccc1)(=O)NBr","rationale": "The nucleophilic nitrogen attacks electrophilic bromine due to Br2 polarization in basic medium, forming an N-bromoamide."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(=O)[N-]Br","rationale": "Base deprotonates the N–H of the N-bromoamide, generating a negatively charged nitrogen that facilitates rearrangement."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=Nc1ccccc1","rationale": "The electron-rich nitrogen promotes a 1,2-shift of c1ccccc1 from carbon to nitrogen, driven by formation of a stable isocyanate and expulsion of bromide."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(=C(O)[O-])c1ccccc1","rationale": "Hydroxide adds to the electrophilic carbon of the isocyanate, as the C=O is strongly polarized and susceptible to nucleophilic attack."},{"step": 6,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[NH-]c1ccccc1","rationale": "Collapse of the tetrahedral intermediate cleaves the C–N bond, releasing CO2 and forming an amide anion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(c1ccccc1)","rationale": "The amide anion is protonated by water or solvent, yielding the primary amine product."}],"description": "Under strongly basic, oxidative conditions (NaOH, Br2), the amide undergoes Hofmann rearrangement. Bromination at nitrogen, followed by base-induced rearrangement, generates an isocyanate intermediate, which hydrolyzes to a primary amine with loss of the carbonyl carbon as CO2."}
